US06319702B1
According to example 54, 0.65 g of 3-cyclobutyl-L-phenylalanine HCl was treated with 25 mL of isobutylene in 25 mL of 1,4-dioxane in the presence of 0.5 mL of conc. H2SO4. Work-up in the usual manner followed by acidification of the free amine with ethereal HCl afforded 0.64 g (81%) of tert-butyl 3-cyclobutyl-L-phenylalaninate.HCl as a white powder, m.p. 173-174° C.

reactant | 3-cyclobutyl-L-phenylalanine HCl | 0.65 g | Cl.C1(CCC1)C=1C=C(C[C@H](N)C(=O)O)C=CC1
reactant | isobutylene | 25 mL | CC(C)=C | C4H8
reactant | H2SO4 | 0.5 mL | OS(=O)(=O)O | H2O4S
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 3-cyclobutyl-L-phenylalaninate | 0.64 g, 81% | C1(CCC1)C=1C=C(C[C@H](N)C(=O)OC(C)(C)C)C=CC1 | C17H25NO2
